US06506747B1
To morpholinomethyl polystyrene (Novabiochem, substitution=3.55 mmol/g, 1.02 g, 3.62 mmol) in methylene chloride (18.5 mL) under argon was added 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole (0.555 g, 1.88 mmol). The mixture was cooled to 0° C. and phosgene (1.93M in toluene, Fluka, 1.95 mL, 3.76 mmol) was added. After thirty minutes the reaction mixture was filtered, washed with methylene chloride (2×30 mL) and concentrated to give 1-(4′-isocyanatophenyl)-3,5-bis(trifluoromethyl)pyrazole.

reactant | morpholinomethyl polystyrene | 3.62 mmol, 1.02 g | CN1CCOCC1 | C5H11NO
reactant | 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | 1.88 mmol, 0.555 g | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
reactant | phosgene | 3.76 mmol, 1.93M, 1.95 mL | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 18.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4′-isocyanatophenyl)-3,5-bis(trifluoromethyl)pyrazole | N(=C=O)C1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C12H5F6N3O
